US07700641B2
Synthesis of ethyl(4′-chloro-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetate
Following the procedure as described in EXAMPLE 1.22, and making non-critical variations using ethyl[4-chloro-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate to replace 4,7-dichloro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained in 63% yield as a colorless solid: MS (ES+) m/z 400.8 (M+1).

reactant | ethyl[4-chloro-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=C(C=CC=C12)Cl)(CO)C=1C(=CC2=C(CCO2)C1)O)=O)=O | C21H20ClNO6
reactant | 4,7-dichloro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=C2C(C(N(C2=C(C=C1)Cl)CCCCC)=O)(CO)C1=CC2=C(OCO2)C=C1O | C21H21Cl2NO5
product | ethyl(4′-chloro-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetate | 63% yield | C(C)OC(CN1C(C2(C3=C(C=CC=C13)Cl)C1=C(OC2)C=C2OCCC2=C1)=O)=O | C21H18ClNO5
